US09340546B2
To a solution of 2-(methoxymethyl)-1-methyl-4-(3-nitropyridin-4-yl)piperazine (84 mg, 0.3.1 mmol) in methanol was added Pd on C (10%, wet, Degussa) (10 mg) and the reaction mixture was stirred overnight at room temperature under a balloon of hydrogen. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to yield 4-(3-(methoxymethyl)-4-methylpiperazin-1-yl)pyridin-3-amine as a film. (72 mg, 96%). MS (ES+) 267.1.

reactant | 2-(methoxymethyl)-1-methyl-4-(3-nitropyridin-4-yl)piperazine | 84 mg | COCC1N(CCN(C1)C1=C(C=NC=C1)[N+](=O)[O-])C | C12H18N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 4-(3-(methoxymethyl)-4-methylpiperazin-1-yl)pyridin-3-amine | COCC1CN(CCN1C)C1=C(C=NC=C1)N | C12H20N4O
